Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
PE/DVT
 
Major Surgical or Invasive Procedure:
IVC filter placement by ___ ___

 
History of Present Illness:
Patient is an ___ with history of superficial siderosis, 
prostate
cancer s/p prostatectomy at age ___, parotid gland cancer s/p
resection/radiation, and chronic neuropathy who presents as a
transfer from ___, found to have extensive b/l DVT and 
PE.

About 2days ago, a nursing aid noted leg swelling, yesterday he
was brought to ___ physician who had
concern for DVT, transferred to ___. Imaging as below,
given question re anticoagulation iso siderosis patient was
transferred to ___.

As for hx of siderosis, patient was found to have progressive
walking difficulty and tremors ___, ultimately was found in the
shower confused at 2AM and talking jibberish, very dehydrated.
MRI reportedly was consistent with siderosis. Patient has since
had some difficulty walking, is largely wheelchair bound and
frequently immobile. He has been in skilled nursing ___ 
through
___, moved back to ___ living, much happier with
24h care.

Of note, patient has seemed more confused since ___, 
decreased
ability to concentrate on a conversation. Now improving over the
past 24hrs. Patient was initiated on ciprofloxacin 500mg BID
8days ago for a UTI.

On ROS, patient has had ___ weight loss since ___.
Prior prostate cancer as above. Reportedly had a normal
colonoscopy ___ ago.

In the ED, initial vitals were: 
T 98.9 HR 82 BP 154/84 RR 16 SpO2 93% RA 
  
- Exam notable for: 
pleasantly confused gentleman in NAD. He is confused as to where
he is and cannot name the hospital from where he was 
transferred.
Patient cannot remember me after leaving the room for 5 mins.
Patient is breathing comfortably on room air. Pulm and cardiac
exam without positive findings. Bilateral lower extremities with
significant erythema, warmth and swelling bilaterally. 

- Labs notable for: 
BUN/Cr ___
Trop-T <0.01 x2
proBNP: 115
Hgb 11.7
INR 1.3

- Imaging was notable for:
___ CT head w/o contrast: 
No acute intracranial process. Unchanged partial opacification 
of
the sphenoid sinuses. Chronic small vessel ischemic changes.
  
Patient was seen in the ED by neurology given concern for CNS
hemorrhage in setting of starting systemic anticoagulation. It
was felt that patient is a high risk for CNR hemorrhage, but in 
a
life-threatening situation from PE, benefit may outweight risk.
This will need to be discussed further with the patient and HCP.
They recommended considering MRI brain w/wo contrast ("Must be
performed on West 3 scanner with ICH protocol"), MRI C/T/L spine
w/wo contrast
(priority to brain over spine) to evaluate for interval change. 
 
Upon arrival to the floor, patient feels well and has no
complaints. He denies any chest pain or shortness of breath. He
states he overall feels lousy but is unable to specify how he
feels. He is asking that I speak with his sons, ___ and ___ 
and
let them know how he is doing. 
 
Past Medical History:
prostate CA s/p prostatectomy age ___
parotid gland CA s/p resection and XRT
polyneuropathy
superficial siderosis
trigeminal neuralgia
HTN
memory impairment
macular degeneration
Lumbar spinal ependymoma s/p resection approx. ___ years ago
Chronic hearing loss, uses hearing aids
 
Social History:
___
Family History:
Father d. prostate CA
Mother d. dementia age ___
No family hx DVT/PE.
 
Physical Exam:
ADMISSION PHYSICAL EXAM:  
VITAL SIGNS: ___ 1508 Temp: 98.3 PO BP: 157/85 HR: 85 RR: 
18
O2 sat: 95% O2 delivery: Ra  
GENERAL: Confused but pleasant and in no distress. He knows he 
is
in the hospital but does not know which one. He is asking if I
have spoken to his son ___, EOMI, Oropharynx clear
NECK: Supple, no JVD
CARDIAC: Normal rate and regular rhythm. Normal S1, S2, no
murmurs. 
LUNGS:  CTAB. He is breathing comfortably on room air
ABDOMEN: Normal bowel sounds. Non-tender to palpation.
EXTREMITIES: Significant erythema, warmth and swelling
bilaterally.  
NEUROLOGIC: ___ strength in upper ext bilaterally. ___ strength
in quads and hamstrings bilaterally 
SKIN:  Erythema and swelling in lower extremities bilaterally.

DISCHARGE PHYSICAL EXAM:
VITALS: 24 HR Data (last updated ___ @ 719)
    Temp: 97.7 (Tm 98.9), BP: 128/74 (113-149/71-77), HR: 74
(74-84), RR: 18 (___), O2 sat: 97% (93-97), O2 delivery: 1.5l
GENERAL: Well-appearing
___: moist mucous membranes
CV: RRR, normal S1/S2, no m/g/r
LUNGS:  CTAB
ABDOMEN: BS+, soft, nontender, nondistended
EXTREMITIES: L leg more edematous and tender than R leg,
bilateral ___ mildly erythematous
NEUROLOGIC: alert, answering questions appropriately, moving all
extremities with purpose
 
Pertinent Results:
========================
LABS
========================
ADMISSION LABS:
___ 02:05AM BLOOD WBC-10.0 RBC-3.86* Hgb-11.7* Hct-36.2* 
MCV-94 MCH-30.3 MCHC-32.3 RDW-11.9 RDWSD-41.0 Plt ___
___ 02:05AM BLOOD Neuts-60.1 ___ Monos-10.1 Eos-2.8 
Baso-0.6 Im ___ AbsNeut-5.99 AbsLymp-2.57 AbsMono-1.01* 
AbsEos-0.28 AbsBaso-0.06
___ 02:05AM BLOOD ___ PTT-25.7 ___
___ 02:05AM BLOOD Glucose-100 UreaN-25* Creat-0.9 Na-145 
K-4.6 Cl-107 HCO3-27 AnGap-11
___ 02:05AM BLOOD Calcium-9.8 Phos-3.4 Mg-2.1
___ 02:05AM BLOOD cTropnT-<0.01 proBNP-115
___ 10:54AM BLOOD cTropnT-<0.01
___ 02:05AM BLOOD PSA-<0.03

DISCHARGE LABS:
___ 06:40AM BLOOD WBC-7.6 RBC-3.75* Hgb-11.2* Hct-34.5* 
MCV-92 MCH-29.9 MCHC-32.5 RDW-12.1 RDWSD-40.6 Plt ___
___ 06:40AM BLOOD Plt ___
___ 06:40AM BLOOD ___ PTT-25.0 ___
___ 06:40AM BLOOD Glucose-104* UreaN-23* Creat-0.8 Na-143 
K-4.2 Cl-107 HCO3-26 AnGap-10

========================
IMAGING
========================
___ ___
IMPRESSION: 
No acute intracranial process.  Unchanged partial opacification 
of the
sphenoid sinuses.  Chronic small vessel ischemic changes.

___ ___
IMPRESSION:
1.  No acute intracranial abnormality, with no definite evidence 
of acute
intracranial hemorrhage.
2. Paranasal sinus disease , as described.
3. Atrophy, probable small vessel ischemic changes as described.

___ IVC GRAM/FILTER
FINDINGS: 
1. Patent normal sized, non-duplicated IVC with single bilateral 
renal veins
and no evidence of a clot.
2. Successful deployment of an infra-renal Den___ IVC filter.
IMPRESSION: 
Successful deployment of ___ retrievable IVC filter.
 
Brief Hospital Course:
P - Patient summary statement for admission
===========================================
Patient is an ___ with history of superficial siderosis, 
prostate cancer s/p prostatectomy at age ___, parotid gland 
cancer s/p resection/radiation, and chronic neuropathy who 
presents as a transfer from ___, found to have extensive 
b/l DVT and PE. Admitted for IVC filter placement and 
consideration of anticoagulation. 

A - Acute medical/surgical issues addressed
===========================================
# Segmental Pulmonary Embolism 
# Extensive bilateral DVTs 
Appears to be unprovoked based on history. Given also with 
significant weight loss in last 3 months, concern for 
malignancy. Given extensive superficial siderosis involving the 
spinal cord and brain parenchyma and history of several cortical 
microbleeds, he is at high risk for CNS hemorrhage with systemic 
anticoagulation. Neurology was consulted in the ED and given 
concern for CAA and underlying cause of superficial siderosis, 
there is high risk of worsening SA bleeding as well as 
intraparenchymal bleeding. Per Neurology, systemic AC benefit 
may outweigh risk if has a life-threatening PE but would need to 
be discussed with patient and HCP. To prevent further 
propagation of DVT, IVC filter placement by ___ was planned 
initially for ___ but delayed to ___ due to emergent ___ 
cases. After extensive discussion with HCP and family, HCP felt 
that patient's best option would be to assume the risk of CNS 
hemorrhage and start systemic anticoagulation on while under 
supervision in the hospital with the hope that if he shows 
clinical signs of hemorrhage that the AC be stopped and reversed 
quickly. Heparin gtt was started without bolus on ___ while 
awaiting IVC filter placement. NCHCT after becoming therapeutic 
on ___ was reassuringly without evidence of intracranial bleed 
and neuro exam was unchanged. Initial PTT goal was 50-90, then 
narrowed to 50-70 to reduce bleeding risk after discussion with 
Hematology and Neurology. After IVC filter placement, HCP opted 
to continue anticoagulation despite risks of intracranial bleed. 
Hematology was consulted regarding long term anticoagulation 
choice and patient was started on lovenox 40mg QD on ___. 

# Weight loss 
# History of prostate cancer s/p prostatectomy 
# History of parotid gland cancer s/p resection and radiation 
# History of lumbar spine ependymoma s/p resection.
Given significant cancer history, concern for recurrent 
malignancy. Could also be from progression of dementia. Normal 
colonscopy ___ years ago. No cough, hemoptysis, or exposures that 
would increase risk of TB. PSA undetectable this admission. 
Given weight loss was deemed to be intentional after further 
conversation with Mr. ___, this was not pursued further.

# Superficial siderosis
# Concern for cerebral amyloid angiopathy 
Etiology of patient’s superficial siderosis is unknown but per 
neuro given history of dementia, several cortical microbleeds as 
well as the imaging appearance of extensive siderosis throughout 
the brain and spinal cord, there is a high suspicion that this 
is due to cerebral amyloid. However, it is also possible that 
this could be due to previously resected ependymoma and 
postsurgical changes, or a CNS AVM (had not been completely 
worked up per deferral by sons). Per neurology, a MRI brain w/ 
and w/o contrast and MRI C/T/L spine should be considered as an 
outpatient to assess for worsening of superficial siderosis.

C - Chronic issues pertinent to admission
======================================
# Polyneuropathy 
Continued home gabapentin 200mg daily 

# History of recent UTI 
S/p 8 days of cipro. Repeat UA here with negative for UTI. 

T - Transitional Issues
======================================
[] Consider MRI brain w/ and w/o contrast and MRI C/T/L spine to 
evaluate interval change in superficial siderosis
[] Will need ___ follow-up for IVC filter

# CODE: Confirmed DNR/DNI with HCP ___
# CONTACT: ___ (son who is physician, primary HCP) 
___ 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Acetaminophen 1000 mg PO QHS 
2. Ciprofloxacin HCl 500 mg PO Q12H 
3. Fluticasone Propionate NASAL 1 SPRY NU BID 
4. Gabapentin 200 mg PO DAILY 
5. lactobacillus combination ___ mmu cells oral DAILY 
6. Polyethylene Glycol 17 g PO EVERY OTHER DAY 

 
Discharge Medications:
1.  Enoxaparin Sodium 40 mg SC DAILY 
RX *enoxaparin 40 mg/0.4 mL 40 mg subcutaneous daily Disp #*30 
Syringe Refills:*0 
2.  Acetaminophen 1000 mg PO QHS  
3.  Fluticasone Propionate NASAL 1 SPRY NU BID  
4.  Gabapentin 200 mg PO DAILY  
5.  lactobacillus combination ___ mmu cells oral DAILY  
6.  Polyethylene Glycol 17 g PO EVERY OTHER DAY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY DIAGNOSES
====================
Segmental pulmonary embolism
Bilateral deep vein thromboses

SECONDARY DIAGNOSES
====================
Superficial siderosis

 
Discharge Condition:
Mental Status: Confused - sometimes.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,  
It was a privilege caring for you at ___.  

WHY WAS I IN THE HOSPITAL?  
- You were transferred to ___ from ___ because you were 
found to have deep vein thromboses (blood clots in your veins) 
in both legs as well as a pulmonary embolism (blood clot in your 
lungs).

WHAT HAPPENED TO ME IN THE HOSPITAL?  
- Pulmonary emboli and DVTs are associated with serious medical 
problems such as respiratory failure, stroke, and even death. 
You were evaluated by Hematology and Neurology specialists to 
determine the best plan for treating your blood clots. Typically 
anticoagulation medications are started to break down clots. 
However, the Neurology team feels that your superficial 
siderosis is most likely caused by cerebral amyloid angiopathy, 
which places you at high risk of intracranial bleeding on 
anticoagulants.
- After discussion with the medical team, your family felt that 
the benefits of anticoagulation to treat your blood clots 
outweighed the risks of bleeding on anticoagulation. You were 
started on an anticoagulant called heparin to treat your blood 
clots. This was later transitioned to a different medication 
called lovenox.
- The Interventional Radiology team placed an IVC filter to help 
prevent clots from your legs spread to other parts of your body.

WHAT SHOULD I DO AFTER I LEAVE THE HOSPITAL?  
- Please continue to take all of your medications and follow-up 
with your appointments as listed below.

We wish you the best!  

Sincerely,  
Your ___ Team
 
Followup Instructions:
___